US07265120B2
In the presence of palladium acetate (8.7 mg), 1,3-bis(diphenylphosphino)propane (35.3 mg) and potassium carbonate (215 mg), a mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (501 mg) in butyl vinyl ether (1.5 ml) was refluxed for 20 hours. After addition of water, the mixture was extracted with CHCl3 dried over MgSO4 and concentrated under reduced pressure to give syrup. The syrup was purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (28 mg).

reactant | 1,3-bis(diphenylphosphino)propane | 35.3 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | potassium carbonate | 215 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 501 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | water | O | H2O
solvent | butyl vinyl ether | 1.5 ml | C(=C)OCCCC | C6H12O
solvent | acetone | CC(=O)C | C3H6O
catalyst | palladium acetate | 8.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(6-acetyl-5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 28 mg | C(C)(=O)C1=C(N=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1)N | C19H19N5O2
